US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-chlorophenyl)piperazine (Compound 121)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(4-chlorophenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 94%). 1H NMR (300 MHz, CDCl3): δ 3.25 (s, 4H), 3.76 (s, 4H), 4.15 (s, 3H), 6.86 (d, J=9.0 Hz, 2H), 7.22-7.45 (m, 4H), 7.72-7.75 (m, 2H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(4-chlorophenyl)piperazine | 94% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)OC | C20H19Cl2N5O2
